US06294558B1
1-(4-Bromophenyl)-2,3-dimethyl-5-[4-(methylsulfonyl)phenyl]-1H-pyrrole
A mixture of 1-[4-(methylsulfonyl)phenyl]-3-methylpentane-1,4-dione (110 mg, 0.41 mmol), 4-bromoaniline (71 mg, 0.41 mmol), and p-toluenesulfonic acid (10 mg) in toluene (3 mL) was heated at reflux temperature using Dean-Stark apparatus. After cooling down, volatiles were removed by evaporation. The residue was purified by flash chromatography on silica gel eluting with ethyl acetate/hexane (1/3) to give the subtitle compound (110 mg, 67% yield).

reactant | 1-[4-(methylsulfonyl)phenyl]-3-methylpentane-1,4-dione | 0.41 mmol, 110 mg | CS(=O)(=O)C1=CC=C(C=C1)C(CC(C(C)=O)C)=O | C13H16O4S
reactant | 4-bromoaniline | 0.41 mmol, 71 mg | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | p-toluenesulfonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Bromophenyl)-2,3-dimethyl-5-[4-(methylsulfonyl)phenyl]-1H-pyrrole | 110 mg, 67% yield | BrC1=CC=C(C=C1)N1C(=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C)C | C19H18BrNO2S
